US08119661B2
(3aR,7aR)-1-[1-[1-(cyclopropanecarbonyl)-4-methyl-4-piperidyl]-4-piperidyl]-3a,4,5,6,7,7a-hexahydro-3H-benzoimidazol-2-one
To the solution (3aR,7aR)-1-[1-(4-methyl-4-piperidyl)-4-piperidyl]-3a,4,5,6,7,7a-hexahydro-3H-benzoimidazol-2-one (HCl salt, 99 mg, 0.25 mmol) in dry DMF (3 mL) was added cyclopropanecarboxylic acid (26 mg, 0.3 mmol) followed by HATU (114 mg, 0.3 mmol) and diisopropylethylamine (0.10 mL, 0.5 mmol) and the mixture was stirred at room temperature for 1 h. The solvent was removed in vacuo, the residue dissolved in dichloromethane (15 mL), washed with saturated NaHCO3 (10 mL) and brine (10 mL), dried over Na2SO4 and concentrated in vacuo. The residue was purified with preparative LC/MS (high pH) to afford the title compound (27 mg, 28%) as white powder. 1H NMR (400 MHz, METHANOL-D4) δ ppm 0.63-0.81 (m, 4H), 0.97 (s, 3H), 1.23-1.43 (m, 5H), 1.51-1.82 (m, 9H), 1.83-1.95 (m, 3H), 2.06-2.29 (m, 2H), 2.81-3.00 (m, 2H), 2.98-3.14 (m, 2H), 3.33-3.64 (m, 4H), 3.70-3.88 (m, 1H). MS (M+1): 389.2.

reactant | (3aR,7aR)-1-[1-(4-methyl-4-piperidyl)-4-piperidyl]-3a,4,5,6,7,7a-hexahydro-3H-benzoimidazol-2-one | 0.25 mmol, 99 mg | CC1(CCNCC1)N1CCC(CC1)N1C(N[C@H]2[C@H]1CCCC2)=O | C18H32N4O
reactant | cyclopropanecarboxylic acid | 0.3 mmol, 26 mg | C1(CC1)C(=O)O | C4H6O2
reactant | HATU | 0.3 mmol, 114 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 0.5 mmol, 0.10 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | (3aR,7aR)-1-[1-[1-(cyclopropanecarbonyl)-4-methyl-4-piperidyl]-4-piperidyl]-3a,4,5,6,7,7a-hexahydro-3H-benzoimidazol-2-one | 27 mg, 28% | C1(CC1)C(=O)N1CCC(CC1)(C)N1CCC(CC1)N1C(N[C@H]2[C@H]1CCCC2)=O | C22H36N4O2
